US07141576B2
(g) Preparation of N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methylsulfonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine
The title compound was prepared according to Procedure D as follows. The 5-(4-{3-chloro-4-(3-fluorobenzyloxy)-anilino}-6-quinazolinyl)-furan-2-carbaldehyde (12.58 g, 24.7 mmol) was added to a solution of 2-methanesulphonyl-ethylamine (4.55 g, 37.0 mmol) and triethylamine(2.0 ml, 27.2 mmol) in 125 ml of tetrahydrofuran and 125 ml of methanol. After stirring 3 hours, the solution was cooled in an ice bath and sodium borohydride(2.42 g, 64.0 mmol) was added in five portions over a 20 minute period. The reaction mixture was stirred overnight at room temperature and then quenched with the dropwise addition of 250 ml of water. The solution was concentrated in vacuo to remove the organic solvents and the residual oily solution was extracted with 1 l of ethyl acetate. The organic solution was washed with 1M sodium hydroxide and brine and then dried with sodium sulfate. The solution was concentrated in vacuo to a very small volume and solid crystallized out. The suspension was filtered with a small volume of ethyl acetate, washed with ether and dried in a vacuum oven at 65 C to give 10.0 g(70%) of free base as an off white solid. 1H NMR 400 MHz (DMSO-d6) δ 9.60 (bs, 1H); 9.32 (bs, 1H); 8.82 (bs, 1H); 8.34 (d, 1H); 8.0 (s, 1H); 7.88 (d, 1H); 7.74 (d 1H); 7.45 (m, 1H); 7.34-7.23 (m, 4H); 7.17 (m, 1H); 6.83 (d, 1H); 5.27 (s, 2H); 4.42 (s, 2H); 3.59 (m, 2H); 3.40 (m, 2H, obscured by waterpeak); 3.12 (s, 3H); MS m/581 (M+H+).

reactant | 5-(4-{3-chloro-4-(3-fluorobenzyloxy)-anilino}-6-quinazolinyl)-furan-2-carbaldehyde | 24.7 mmol, 12.58 g | ClC=1C=C(NC2=NC=NC3=CC=C(C=C23)C2=CC=C(O2)C=O)C=CC1OCC1=CC(=CC=C1)F | C26H17ClFN3O3
reactant | 2-methanesulphonyl-ethylamine | 37.0 mmol, 4.55 g | CS(=O)(=O)CCN | C3H9NO2S
reactant | triethylamine | 27.2 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 64.0 mmol, 2.42 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
solvent | methanol | 125 ml | CO | CH4O
product | N-{3-Chloro-4-[(3-fluorobenzyl)oxy]phenyl}-6-[5-({[2-(methylsulfonyl)ethyl]amino}methyl)-2-furyl]-4-quinazolinamine | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC1=NC=NC2=CC=C(C=C12)C=1OC(=CC1)CNCCS(=O)(=O)C | C29H26ClFN4O4S
